US06329550B1
1.4 Synthesis of N,N′-diphenethyl-2-((S)-2-thioacetyl-3-methylbutyrylamino)malonamide
Combine N,N′-diphenethyl-2-((R)-2-bromo-3-methylbutyrylamino)malonamide (0.20 g, 0.41 mmol), thioacetic acid (0.08 mL, 1.1 mmol), and dimethylformamide (8 mL). Degas by repeated cycles of vacuum and filling with nitrogen gas. Add cesium carbonate (0.215 g, 0.664 mmol). After 18 hours, dilute with water and extract with ethyl acetate. Extract the organic layer with brine, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 1/1 hexane ethyl acetate to give the title compound.

reactant | N,N′-diphenethyl-2-((R)-2-bromo-3-methylbutyrylamino)malonamide | 0.41 mmol, 0.20 g | C(CC1=CC=CC=C1)NC(C(C(=O)NCCC1=CC=CC=C1)NC([C@@H](C(C)C)Br)=O)=O | C24H30BrN3O3
reactant | thioacetic acid | 1.1 mmol, 0.08 mL | C(C)(=S)O | C2H4OS
reactant | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
reactant | cesium carbonate | 0.664 mmol, 0.215 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | O | H2O
solvent | hexane ethyl acetate | C(C)OC(C)=O.CCCCCC
product | N,N′-diphenethyl-2-((S)-2-thioacetyl-3-methylbutyrylamino)malonamide | C(CC1=CC=CC=C1)NC(C(C(=O)NCCC1=CC=CC=C1)NC([C@H](C(C)C)C(C)=S)=O)=O | C26H33N3O3S
